US05145869
A mixture of 3,4-dichlorobenzenethiol (3.00 ml), methyleneglutaronitrile (2.57 ml), ethanol (25 ml), and triton B (40% methanol solution, 10 drops) was refluxed for 4 hours. After the reaction mixture was concentrated in vacuo, the resulting residue was dissolved in chloroform, washed with water, and dried over MgSO4. The solvent was evaporated at reduced pressure, and the residue was recrystallized from diethyl ether-hexane to give 6.14 g of 2-(3,4-dichlorophenylthiomethyl)glutaronitrile.

reactant | 3,4-dichlorobenzenethiol | 3.00 ml | ClC=1C=C(C=CC1Cl)S | C6H4Cl2S
reactant | methyleneglutaronitrile | 2.57 ml | C=C(C#N)CCC#N | C6H6N2
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-(3,4-dichlorophenylthiomethyl)glutaronitrile | 6.14 g | ClC=1C=C(C=CC1Cl)SCC(C#N)CCC#N | C12H10Cl2N2S
